US09145348B2
Step 2. 2-Fluoro-1-isopropyl-4-methoxybenzene
The solution of 2-(2-fluoro-4-methoxyphenyl)propan-2-ol in IPAC (500 ml, 451 mmol) and diphenyl sulfide (0.151 ml, 0.901 mmol) were combined in a hydrogenation shaker. The reaction mixture was purged with nitrogen/vacuum cycles, and 5% palladium on carbon (7.67 g, 1.802 mmol) was added, followed by TFA (17.36 ml, 225 mmol). Hydrogenation was conducted at 60° C. under 50 psig pressures for 12 h. The catalyst was removed by filtration through a 1 inch plug of Solka-Floc® powdered cellulose and rinsed with IPAC (49.8 ml). The filtrate was assayed and was found to contain 76 g of the desired product, which corresponds to a quantitative yield.

reactant | 2-(2-fluoro-4-methoxyphenyl)propan-2-ol | FC1=C(C=CC(=C1)OC)C(C)(C)O | C10H13FO2
reactant | diphenyl sulfide | 0.901 mmol, 0.151 ml | C1(=CC=CC=C1)SC1=CC=CC=C1 | C12H10S
reactant | TFA | 225 mmol, 17.36 ml | C(=O)(C(F)(F)F)O | C2HF3O2
catalyst | palladium on carbon | 1.802 mmol, 7.67 g | [Pd] | Pd
product | 2-Fluoro-1-isopropyl-4-methoxybenzene | quantitative yield | FC1=C(C=CC(=C1)OC)C(C)C | C10H13FO
